US04719036
2-(Benzothiazol-2-ylthio)-propionic acid amide
A finely powdered mixture of 16.8 g of 2-mercaptobenzothiazole and 7.5 g of acrylic amide is added at 45°-50° in the course of 1 hour to 100 ml 70% sulfuric acid, with stirring. After a further hour at 45°-50°, the rection mixture is poured into ice water. The precipitate is filtered off, washed with water and dried. The obtained 2-(benzthiazol-2-ylthio)-propionic acid amide is recrystallized from ethylacetate and melts at 144°-145°.

reactant | 2-mercaptobenzothiazole | 16.8 g | SC=1SC2=C(N1)C=CC=C2 | C7H5NS2
reactant | acrylic amide | 7.5 g | C(C=C)(=O)N | C3H5NO
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
product | 2-(Benzothiazol-2-ylthio)-propionic acid amide | S1C(=NC2=C1C=CC=C2)SC(C(=O)N)C | C10H10N2OS2
